US06492377B1
6-benzyl-7-cyclopentyl-4-ethyl-2-[(4-methoxybenzyloxy)methyl]-imidazo[4,5-e]-s-triazolo[1,5-a]pyrimidin-5-one (1.03 g) is dissolved in 20 ml of dichloromethane and 1.2 ml of water are added. At ambient temperature, 2,3-dichloro-5,6-dicyanobenzoquinone (DDQ, 0.68 g) is added with stirring and the mixture is stirred for a further 4 hours. After the 2,3-dichloro-5,6-dicyanobenzoquinone precipitate has been separated off, the remaining solution is washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution and dried over sodium sulphate. The solvent is distilled of and the residue remaining is crystallised from diethyl ether. 0.74 g of 6-benzyl-7-cyclopentyl-4-ethyl-2-hydroxymethyl-imidazo[4,5-e]-s-triazolo[1,5-a]pyrimidin-5-one are obtained in the form of slightly reddish crystals which can be used in the next step without further purification.

reactant | 6-benzyl-7-cyclopentyl-4-ethyl-2-[(4-methoxybenzyloxy)methyl]-imidazo[4,5-e]-s-triazolo[1,5-a]pyrimidin-5-one | 1.03 g | C(C1=CC=CC=C1)N1C(=NC2=C1C(N(C=1N2N=C(N1)COCC1=CC=C(C=C1)OC)CC)=O)C1CCCC1 | C29H32N6O3
reactant | water | 1.2 ml | O | H2O
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 0.68 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-benzyl-7-cyclopentyl-4-ethyl-2-hydroxymethyl-imidazo[4,5-e]-s-triazolo[1,5-a]pyrimidin-5-one | 0.74 g | C(C1=CC=CC=C1)N1C(=NC2=C1C(N(C=1N2N=C(N1)CO)CC)=O)C1CCCC1 | C21H24N6O2
